US07064152B2
Preparation of 3-Ethyl-2-methylbenzoxazolium 4-Cyanobenzenesulfinate
A solution of 3-ethyl-2-methylbenzoxazolium chloride (0.73 g) in ethanol (20 mL) was added to an Erlenmeyer flask containing a magnetically stirred boiling solution of sodium 4-cyanobenzenesulfinate (0.1 g) in anhydrous ethanol (20 mL). The mixture was allowed to cool to room temperature and was then further cooled in an ice bath. The mixture was filtered and the filtrate was concentrated to dryness using a rotary evaporator. The residue was mixed with deionized water and this mixture was extracted with ethyl acetate (2×20 mL). The combined organic extracts were concentrated to dryness using a rotary evaporator. The resultant solid was then dissolved in methylene chloride, filtered and evaporated to dryness using a rotary evaporator to afford 0.08 g of product.

reactant | 3-ethyl-2-methylbenzoxazolium chloride | 0.73 g | [Cl-].C(C)[N+]1=C(OC2=C1C=CC=C2)C
reactant | sodium 4-cyanobenzenesulfinate | 0.1 g | C(#N)C1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Ethyl-2-methylbenzoxazolium 4-Cyanobenzenesulfinate | 0.08 g | C(#N)C1=CC=C(C=C1)S(=O)[O-].C(C)[N+]1=C(OC2=C1C=CC=C2)C | InChI=1S/C10H12NO.C7H5NO2S/c1-3-11-8(2)12-10-7-5-4-6-9(10)11;8-5-6-1-3-7(4-2-6)11(9)10/h4-7H,3H2,1-2H3;1-4H,(H,9,10)/q+1;/p-1
